US07820707B2
2-(2-(3-Tert-butyl-4-((ethylamino)methyl)-1H-pyrazol-1-yl)acetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
2-(2-(3-Tert-butyl-4-formyl-1H-pyrazol-1-yl)acetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (1.66 g, 3.84 mmol) was dissolved in DCM (40 mL) and acetic acid (20.98 g, 20 mL, 349 mmol). Ethylamine (2M in THF, 7.68 mL, 15.35 mmol) was added and the mixture was stirred for 90 min. A slurry of palladium on charcoal (10%, 1.51 g, 1.420 mmol) in DCM (30 mL) was added and the mixture hydrogenated at 4 barr for 72 h at 20° C. The catalyst was filtered through dicalite and the dicalite washed with water, DCM and MeOH. All volatiles were removed under reduced pressure and the aqueous residue was basified to pH 8 using sodium bicarbonate. The crude product was extracted with EtOAc. The organics were combined and washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by chromatography (DCM, 0-30% MeOH/DCM and 0-20% 7 N NH3 in MeOH/DCM). Concentration in vacuo yielded a white solid (800 mg, 1.73 mmol, 45%).

reactant | 2-(2-(3-Tert-butyl-4-formyl-1H-pyrazol-1-yl)acetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 3.84 mmol, 1.66 g | C(C)(C)(C)C1=NN(C=C1C=O)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NCCO | C21H28N4O4S
reactant | acetic acid | 349 mmol, 20 mL, 20.98 g | C(C)(=O)O | C2H4O2
reactant | Ethylamine | 15.35 mmol, 2M, 7.68 mL | C(C)N | C2H7N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium on charcoal | 1.420 mmol, 1.51 g | [Pd] | Pd
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(3-Tert-butyl-4-((ethylamino)methyl)-1H-pyrazol-1-yl)acetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 1.73 mmol, 800 mg, 45% | C(C)(C)(C)C1=NN(C=C1CNCC)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NCCO | C23H35N5O3S
